US04396627
N-[2-(4-Methoxymethylphenyl)-1-methylethyl]-2-hydroxy-2-(4-hydroxy-3-hydroxymethylphenyl)ethanamine
A mixture of 1-(4-methoxymethylphenyl)propan-2-one (0.46 g) and 2-hydroxy-2-(4-hydroxy-3-hydroxymethylphenyl) ethanamine (0.45 g) in ethanol (50 ml) was refluxed 0.5 hours, cooled to ambient temperature and hydrogenated at atmospheric pressure using platinum oxide as catalyst. The solution was filtered, evaporated, the residue taken up in ethyl acetate and filtered again. Removal of the solvent gave an oil which was crystallised and recrystallised from benzene to give the title compound, mp 81°-92°, as a 53:47 mixture of diastereoisomers.

reactant | 1-(4-methoxymethylphenyl)propan-2-one | 0.46 g | COCC1=CC=C(C=C1)CC(C)=O | C11H14O2
reactant | 2-hydroxy-2-(4-hydroxy-3-hydroxymethylphenyl) ethanamine | 0.45 g | OC(CN)C1=CC(=C(C=C1)O)CO | C9H13NO3
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | platinum oxide | [Pt]=O
product | N-[2-(4-Methoxymethylphenyl)-1-methylethyl]-2-hydroxy-2-(4-hydroxy-3-hydroxymethylphenyl)ethanamine | COCC1=CC=C(C=C1)CC(C)NCC(C1=CC(=C(C=C1)O)CO)O | C20H27NO4
